US08440689B2
B. 2,4-Dichloro-6-(m-tolylamino)pyrimidine-5-carboxylic acid
To a solution of 2,4,6-trichloropyrimidine-5-carboxylic acid (5.69 g, 25.02 mmol) in DMF (60 mL) was added Et3N (8 mL, 57.4 mmol) and m-toluidine (3.2 mL, 29.5 mmol) at 0° C. The mixture was stirred at RT for 12 h. To the mixture was added 1N HCl. The mixture was extracted with EtOAc. The organic layers were basified with saturated aq NaHCO3 and the aqueous layers were washed with EtOAc. The washed aqueous layer was acidified with 1N HCl and extracted with EtOAc. The combined organic layers were washed with 1N HCl, water, and brine, were dried over anhydrous Na2SO4, and then filtered. The filtrate was concentrated under reduced pressure, triturated with hexane, and filtered to give a first batch of the title compound (4.36 g). The filtrate was concentrated, triturated with hexane, and filtered to give a second batch (0.36 g) of the title compound (total 4.72 g, 63%). 1H NMR (500 MHz, DMSO-d6) δ ppm 2.30 (s, 3H), 7.00-7.02 (m, 1H), 7.25-7.28 (m, 2H), 7.33-7.35 (m, 2H), 10.13 (s, 1H), 1H not detected. [M+H] calc'd for C12H10Cl2N3O2, 298. found, 298.

reactant | 2,4,6-trichloropyrimidine-5-carboxylic acid | 25.02 mmol, 5.69 g | ClC1=NC(=C(C(=N1)Cl)C(=O)O)Cl | C5HCl3N2O2
reactant | Et3N | 57.4 mmol, 8 mL | CCN(CC)CC | C6H15N
reactant | m-toluidine | 29.5 mmol, 3.2 mL | NC1=CC(=CC=C1)C | C7H9N
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 2,4-Dichloro-6-(m-tolylamino)pyrimidine-5-carboxylic acid | 4.36 g | ClC1=NC(=C(C(=N1)Cl)C(=O)O)NC=1C=C(C=CC1)C | C12H9Cl2N3O2
